US08247403B2
(1) tert-butyl 9-bicyclo[2.2.1]hepta-2-en-2-yl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (594 mg, 1.81 mmol), bicyclo[2.2.1]-2-hepten-2-ylboronic acid (250 mg, 1.81 mmol), ethanol (2 ml), 2N aqueous sodium carbonate solution (10 ml), and tetrakis(triphenylphosphine)palladium(0) (253 mg, 0.219 mmol) in toluene (20 ml) was stirred under a nitrogen atmosphere at 95° C. for 12 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the desired product (282 mg, 45.6%) as an oil.

reactant | tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 1.81 mmol, 594 mg | BrC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C14H18BrNO3
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | sodium carbonate | 2N, 10 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.219 mmol, 253 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 9-bicyclo[2.2.1]hepta-2-en-2-yl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 282 mg, 45.6% | C12C(=CC(CC1)C2)C2=CC=CC=1CN(CCOC12)C(=O)OC(C)(C)C | C21H27NO3
